US08791255B2
The product is prepared according to the procedure described in example 5, using 220 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 300 mg of (2,3-dihydro-1H-indol-3-ylmethyl)dimethylamine and 210 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 0.14 ml of pyridine and 2.5 ml of N,N-dimethylformamide. 206 mg of 2-[2-(3-dimethylaminomethyl-2,3-dihydroindol-1-yl)-2-oxoethyl]-6-morpholin-4-yl-3H-pyrimidin-4-one are obtained in the form of a pink solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 220 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | (2,3-dihydro-1H-indol-3-ylmethyl)dimethylamine | 300 mg | N1CC(C2=CC=CC=C12)CN(C)C | C11H16N2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 210 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 0.14 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | 2-[2-(3-dimethylaminomethyl-2,3-dihydroindol-1-yl)-2-oxoethyl]-6-morpholin-4-yl-3H-pyrimidin-4-one | 206 mg | CN(C)CC1CN(C2=CC=CC=C12)C(CC1=NC(=CC(N1)=O)N1CCOCC1)=O | C21H27N5O3
